US04992459
To a solution of 1-(3-fluoro-4-methoxybenzyl)aminoacetaldehyde dimethyl acetal (6.68 g, 0.0275 mole) in ethyl alcohol (40 ml) was added potassium thiocyanate (2.94 g, 0.0302 mole) in water (65 ml) followed by 12 N hydrochloric acid (6 ml) and the reaction mixture was heated under reflux for 3 hours. The solvent was partially removed under reduced pressure and the mixture was cooled in ice and the product filtered. The product was recrystallized from ethyl alcohol to give 1-(3-fluoro4-methoxybenzyl)-2-mercaptoimidazole as a solid melting at 156-157° (3.98 g, 61%).

reactant | 1-(3-fluoro-4-methoxybenzyl)aminoacetaldehyde dimethyl acetal | 0.0275 mole, 6.68 g | COC(C)(NCC1=CC(=C(C=C1)OC)F)OC | C12H18FNO3
reactant | potassium thiocyanate | 0.0302 mole, 2.94 g | [S-]C#N.[K+]
reactant | hydrochloric acid | 12 N, 6 ml | Cl | ClH
solvent | ethyl alcohol | 40 ml | C(C)O | C2H6O
solvent | water | 65 ml | O | H2O
product | 1-(3-fluoro4-methoxybenzyl)-2-mercaptoimidazole | 3.98 g, 61% | FC=1C=C(CN2C(=NC=C2)S)C=CC1OC | C11H11FN2OS
